US06245761B1
Preparation of 1-[2-fluoro-5-bromobenzyloxy]-3-(piperidin-3-yl)propane
In a 100 ml round bottom flask, 1-[2-fluoro-5-bromobenzyloxy]-3-[1-(t-butoxycarbonyl)piperidin-3-yl]propane (0.395 g) was dissolved in methylene chloride (4.2 ml). The solution was cooled to 0° C. and trifluoroacetic acid (0.8 ml) was slowly added dropwise. The resulting mixture was stirred at 0° C. for thirty minutes, followed by stirring at ambient temperature for thirty minutes. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between 1 M potassium carbonate and methylene chloride. The aqueous fraction was back extracted with methylene chloride. The organic fractions were combined, and dried over sodium sulfate. The solvents were removed in vacuo. The desired title intermediate was further purified by liquid chromatography.

reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[2-fluoro-5-bromobenzyloxy]-3-[1-(t-butoxycarbonyl)piperidin-3-yl]propane | 0.395 g | FC1=C(COCCCC2CN(CCC2)C(=O)OC(C)(C)C)C=C(C=C1)Br | C20H29BrFNO3
solvent | methylene chloride | 4.2 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-fluoro-5-bromobenzyloxy]-3-(piperidin-3-yl)propane | FC1=C(COCCCC2CNCCC2)C=C(C=C1)Br | C15H21BrFNO
